US05200415
Synthesis of 1-azabicyclo[2.2.2]oct-3-yl 2,7-dimethylpyrazolo[1,5-a]pyridine-3-carboxylate
After a suspension of 350 mg (2.76 mmol) of 3-quinuclidinol in 30 ml of benzene was refluxed for 1.0 hours by using a Dean-Stark apparatus, 0.1 g of metal sodium was added and the resultant mixture was refluxed under stirring for further 3 hours. Unreacted sodium was removed and 200 mg (0.92 mmol) of ethyl 2,7-dimethylpyrazolo[1,5-a]pyridine-3-carboxylate were added, followed by heating under reflux for 24 hours. The solvent of the reaction mixture was distilled off under reduced pressure and the residue was purified by chromatography on a silica gel column (chloroform: methanol=10:1), whereby 60 mg (0.20 mmol) of the title compound were obtained as white crystals (yield: 22%).

reactant | 3-quinuclidinol | 2.76 mmol, 350 mg | N12CC(C(CC1)CC2)O | C7H13NO
reactant | sodium | [Na] | Na
reactant | ethyl 2,7-dimethylpyrazolo[1,5-a]pyridine-3-carboxylate | 0.92 mmol, 200 mg | CC1=NN2C(C=CC=C2C)=C1C(=O)OCC | C12H14N2O2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1-azabicyclo[2.2.2]oct-3-yl 2,7-dimethylpyrazolo[1,5-a]pyridine-3-carboxylate | 0.20 mmol, 60 mg | CC1=NN2C(C=CC=C2C)=C1C(=O)OC1CN2CCC1CC2 | C17H21N3O2
